US04728655
To the crude product composed by ethyl N-[2-[[[2-[(aminoiminomethyl)amino]-4-thiazolyl]methyl]thio]ethyl]formimidate, 7.7 g of p-bromobenzenesulfonamide in 50 ml of methanol are dropwise added under stirring and at room temperature. The mixture is kept under stirring for 1 hour at room temperature, the solvent is removed by distillation under reduced pressure, and the obtained residue is purified by 60-silicagel column chromatography. 13.5 g of N-p-bromobenzene-sulphonyl-N'-[2-[[[2-[(aminoiminomethyl)amino]-4-thiazolyl]methyl]thio]ethyl]formamidine are obtained.

reactant | ethyl N-[2-[[[2-[(aminoiminomethyl)amino]-4-thiazolyl]methyl]thio]ethyl]formimidate | NN=CNC=1SC=C(N1)CSCCN=COCC | C10H17N5OS2
reactant | p-bromobenzenesulfonamide | 7.7 g | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
solvent | methanol | 50 ml | CO | CH4O
product | N-p-bromobenzene-sulphonyl-N'-[2-[[[2-[(aminoiminomethyl)amino]-4-thiazolyl]methyl]thio]ethyl]formamidine | 13.5 g | BrC1=CC=C(C=C1)S(=O)(=O)NC=NCCSCC=1N=C(SC1)NC=NN | C14H17BrN6O2S3
